US07338973B2
1-(8-methoxy-6H-5-oxa-11-aza-benzo[a]fluoren-11-yl)-ethanone
Acetyl chloride (0.064 mL, 0.896 mmoL) in CH2Cl2 (2 mL) was treated with 8-methoxy-6,11-dihydro-5-oxa-11-aza-benzo[a]fluorene (150 mg, 0.598 mmoL) followed by Et3N (0.896 mmoL, 0.125 mL) at 0° C. The reaction mixture was then slowly warmed to room temperature over 2 hours. The reaction mixture was then partitioned between CH2Cl2 and saturated NaHCO3. The aqueous phase was extracted two times with CH2Cl2. The organic layers from the two extractions were then combined, washed with water and brine, dried over anhydrous Na2SO4, filtered and concentrated to yield a brown oil. The crude material was then purified by column chromatography (silica gel, hexanes:EtOAc 3:1 as eluent) to yield the title compound as a pale solid.

reactant | Acetyl chloride | 0.064 mL | C(C)(=O)Cl | C2H3ClO
reactant | 8-methoxy-6,11-dihydro-5-oxa-11-aza-benzo[a]fluorene | 150 mg | COC=1C=C2C=3COC4=C(C3NC2=CC1)C=CC=C4 | C16H13NO2
reactant | Et3N | 0.125 mL | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | 1-(8-methoxy-6H-5-oxa-11-aza-benzo[a]fluoren-11-yl)-ethanone | COC=1C=C2C=3COC4=C(C3N(C2=CC1)C(C)=O)C=CC=C4 | C18H15NO3
